US08445501B2
2-(2-Cyclopropylmethoxy-4-fluoro-5-methoxy-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane
A stirred solution of 1-bromo-2-cyclopropylmethoxy-4-fluoro-5-methoxy-benzene from example A19 (27.51 g; 0.10 mol) in dry tert-butylmethylether (500 mL) is cooled to −20° C. before addition of n-butyl lithium (1.6 M in hexane; 68.8 mL; 0.11 mol) via syringe. After complete addition stirring is continued for one hour. Neat 2-iso-propoxy-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane is added via syringe into the reaction mixture at −40° C. After 30 min the reaction is quenched with 1M citric acid (200 mL) at 0° C. and stirred for one hour at ambient temperature. The organic layer is separated. The aqueous layer is extracted with tert-butylmethylether (100 mL). The combined organic layers are washed with brine (200 mL) dried over MgSO4 and filtered through a plug of neutral alumina containing 5 wt % of water. The product is completely eluted with several small portions of tert-butylmethylether. The solvent is removed under reduced pressure. The crude is purified by short path distillation at 3×10−3 mbar (160° C.) to give the title compound as a colorless oil that solidifies at ambient temperature. Yield: 22.65 g.

reactant | 1-bromo-2-cyclopropylmethoxy-4-fluoro-5-methoxy-benzene | BrC1=C(C=C(C(=C1)OC)F)OCC1CC1 | C11H12BrFO2
reactant | n-butyl lithium | 0.11 mol, 1.6 M, 68.8 mL | C(CCC)[Li]
reactant | 2-iso-propoxy-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
solvent | tert-butylmethylether | 500 mL | C(C)(C)(C)OC | C5H12O
product | 2-(2-Cyclopropylmethoxy-4-fluoro-5-methoxy-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | C1(CC1)COC1=C(C=C(C(=C1)F)OC)B1OC(C(O1)(C)C)(C)C | C17H24BFO4
